US08975254B2
N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 53 but starting from 5-pyridin-2-yl-4H-pyrazole-3-carboxylic acid (38 mg; 0.20 mmol) and 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (50 mg; 0.20 mmol). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% MeOH/DCM) to obtain 19 mg (23%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 3.70-3.74 (m, 2H), 4.38 (t, 2H), 6.96 (d, 1H), 7.23-7.40 (m, 2H), 7.82-8.02 (m, 5H), 8.09 (s, 1H), 8.48, (broad s, 1H), 8.62 (d, 1H), 13.89 (broad s, 1H).

reactant | 5-pyridin-2-yl-4H-pyrazole-3-carboxylic acid | 0.20 mmol, 38 mg | N1=C(C=CC=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.20 mmol, 50 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide | 19 mg, 23% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C1=NC=CC=C1 | C21H16ClN7O
